US04307113
To a solution containing 5.62 g. of anhydrous p-toluenesulfonic acid pre-dissolved in 100 ml. of anhydrous ethanol and 500 ml. of benzene is added 6.1 g. of 2-amino-α,α,α-trifluoro-p-toluic acid. The solution is refluxed under an extractor containing a thimble of anhydrous magnesium sulfate for 11 days with periodic replacement of the drying agent. The resultant solution is then cooled, neutralized with 2 N sodium hydroxide and the organic layer is separated, washed with 2 N sodium hydroxide, and then with brine. After drying the organic solution over anhydrous magnesium sulfate, the solvents are removed on a rotary evaporator and the resulting crystals are dried to yield 2-amino-α,α,α-trifluoro-p-toluic acid ethyl ester (4-trifluoromethylanthranilic acid ethyl ester), m.p. 38°-39° C.

reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-amino-α,α,α-trifluoro-p-toluic acid | NC1=C(C=CC(=C1)C(=O)O)C(F)(F)F | C8H6F3NO2
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-α,α,α-trifluoro-p-toluic acid ethyl ester | C(C)OC(=O)C1=CC(=C(C=C1)C(F)(F)F)N | C10H10F3NO2
